US09428499B2
Intermediate xxx: Synthesis of 1-(2-fluoro-4-iodophenyl)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-1,2,3,4,7,8-hexahydropyrido[2,3-d]pyrimidin-5-yl 4-methylbenzenesulfonate
Under nitrogen atmosphere, to a solution of 1-(2-fluoro-4-iodophenyl)-5-hydroxy-3-(4-methoxybenzyl)-6,8-dimethylpyrido[2,3-d]pyrimidine-2,4,7(1H,3H,8H)-trione (41 g, 72.8 mmol) (Prepared as per reference WO2005121142) in acetonitrile (300 ml), triethylamine (30.4 ml, 218 mmol) and trimethylamine hydrochloride (3.48 g, 36.4 mmol) were added slowly followed by addition of p-toluensulfonylchloride (27.8 g, 146 mmol) in acetonitrile (300 ml) at 0° C., and the mixture was stirred under ice cooling for 1 hr, and then at room temperature for 24 h. To the reaction mixture was added methanol (220 ml), and the mixture was stirred at room temperature for 1 h. The precipitated crystals were collected by filtration, dried under vacuum to afford the titled compound (40.5 g, 78%)

reactant | 1-(2-fluoro-4-iodophenyl)-5-hydroxy-3-(4-methoxybenzyl)-6,8-dimethylpyrido[2,3-d]pyrimidine-2,4,7(1H,3H,8H)-trione | 72.8 mmol, 41 g | FC1=C(C=CC(=C1)I)N1C(N(C(C2=C1N(C(C(=C2O)C)=O)C)=O)CC2=CC=C(C=C2)OC)=O | C23H19FIN3O5
reactant | triethylamine | 218 mmol, 30.4 ml | C(C)N(CC)CC | C6H15N
reactant | trimethylamine hydrochloride | 36.4 mmol, 3.48 g | Cl.CN(C)C
reactant | p-toluensulfonylchloride | 146 mmol, 27.8 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
solvent | methanol | 220 ml | CO | CH4O
product | 1-(2-fluoro-4-iodophenyl)-3-(4-methoxybenzyl)-6,8-dimethyl-2,4,7-trioxo-1,2,3,4,7,8-hexahydropyrido[2,3-d]pyrimidin-5-yl 4-methylbenzenesulfonate | 40.5 g, 78% | CC1=CC=C(C=C1)S(=O)(=O)OC1=C(C(N(C=2N(C(N(C(C21)=O)CC2=CC=C(C=C2)OC)=O)C2=C(C=C(C=C2)I)F)C)=O)C | C30H25FIN3O7S
